US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-5-fluoro-N-(1H-pyrrol-1-yl)-4-pyrimidineamine was reacted with 3,4-ethylenedioxyaniline to produce N2-(3,4-ethylenedioxyphenyl)-5-Fluoro-N4-(1H-pyrrol-1-yl)-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 11.63 (s, 1H), 9.94 (s, 1H), 8.23 (d, 1H, J=4.7 Hz), 6.86 (m, 4H), 6.58 (d, 1H, J=8.8 Hz), 6.12 (t, 2H, J=2.3 Hz), 4.15 (s, 4H). LCMS: ret. time: 17.36 min.; purity: 96%; MS (m/e): 328 (MH+).

reactant | 2-chloro-5-fluoro-N-(1H-pyrrol-1-yl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NN1C=CC=C1)F | C8H6ClFN4
reactant | 3,4-ethylenedioxyaniline | C1OC=2C=C(N)C=CC2OC1 | C8H9NO2
product | N2-(3,4-ethylenedioxyphenyl)-5-Fluoro-N4-(1H-pyrrol-1-yl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC=C(C(=N1)NN1C=CC=C1)F | C16H14FN5O2
